US06579884B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-6-methoxymethyl-imidazo[1,2-a]pyridine hydrochloride
To a stirred solution of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-6-hydroxymethyl-imidazo[1,2-a]pyridine (0.08 g, 0.26 mmol) in methylene chloride (5 ml) was added thionyl chloride (0.038 ml, 0.52 mmol) and the mixture was stirred for 2 h. A saturated bicarbonate solution was added and the organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure. To the residue was added methanol (5 ml) the mixture was stirred overnight. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride: methanol (100:5) as eluent. Treating the residue with HCl/diethyl ether and filtration gave 0.01 g (11%) of the title compound.

reactant | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-6-hydroxymethyl-imidazo[1,2-a]pyridine | 0.26 mmol, 0.08 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)CO)C1C | C19H23N3O
reactant | thionyl chloride | 0.52 mmol, 0.038 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bicarbonate | C([O-])(O)=O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-6-methoxymethyl-imidazo[1,2-a]pyridine hydrochloride | 0.01 g, 11% | Cl.CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)COC)C1C | InChI=1S/C20H25N3O.ClH/c1-13-7-6-8-14(2)18(13)10-21-19-9-17(12-24-5)11-23-16(4)15(3)22-20(19)23;/h6-9,11,21H,10,12H2,1-5H3;1H
